US07105679B2
3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one
Into 1N HCl (10 mL) (1N HCl solution made using concentrated HCl in 1:1 THF:IPA) was dissolved 3-[2,4-bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-bromomethyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one (200 mg, 0.544 mmol) and the resulting mixture was stirred for 24 h at room temperature. The reaction mixture was then diluted with EtOAc (100 mL) and the organic layer washed with water (2×20 mL) and brine (30 mL). The organic layer was dried over Na2SO4, filtered and the organic solvent evaporated to yield the title compound, 3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one as a crude solid.

reactant | HCl | 1N, 10 mL | Cl | ClH
reactant | 3-[2,4-bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-bromomethyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | 0.544 mmol, 200 mg | C[Si](CCOCOC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C=1C(OC2=CC(=CC=C2C1CBr)OCOCC[Si](C)(C)C)=O)(C)C | C34H53BrO8Si3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 3-[2,4-Bis-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-4-methyl-7-(2-trimethylsilanyl-ethoxymethoxy)-chromen-2-one | C[Si](CCOCOC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)C=1C(OC2=CC(=CC=C2C1C)OCOCC[Si](C)(C)C)=O)(C)C | C34H54O8Si3
